US03937726
EXAMPLE: Preparation of 3-(1',1',2'-trifluoro-2'-chloroethoxy)-aniline
139 grams (1 mole) of 3-nitro-phenol and 28 grams (0.5 mole) of potassium hydroxide were dissolved in 400 milliliters of dimethyl formamide, and 140 grams (1.2 mole) of trifluorochloroethylene were introduced in a gas pipe at 40°C; the mixture was then maintained at 60°C for 2hours. The main amount of dimethyl formamide was distilled off in vacuo. The residue was poured into ice water, separated, dried over Na2SO4 and distilled in vacuo.

reactant | 3-nitro-phenol | 1 mole, 139 grams | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium hydroxide | 0.5 mole, 28 grams | [OH-].[K+]
reactant | trifluorochloroethylene | 1.2 mole, 140 grams | FC(=C(Cl)F)F | C2ClF3
solvent | dimethyl formamide | 400 milliliters | CN(C=O)C | C3H7NO
product | 3-(1',1',2'-trifluoro-2'-chloroethoxy)-aniline | FC(C(Cl)F)(OC=1C=C(N)C=CC1)F | C8H7ClF3NO
